### PR TITLE
feat: add peephole rewriter for multiple rewrites

### PR DESCRIPTION
**Pull request by salinhkuhn**
This PR extends the existing Peephole Rewrite infrastructure by adding support for applying a list of rewrites. Specifically, it introduces new functions that enable the rewriter to fold over a list of peephole rewrites, attempting to apply them. Additionally, this PR includes a corresponding induction proof and a helper theorem showing that  rewritePeephole_go_multi preserves the semantics of the target program.

### CODE REVIEW

File: SSA/Core/Framework.lean [hunk 1]
```diff
@@ -2589,6 +2589,65 @@ theorem denote_rewritePeephole (fuel : ℕ)
...
+  | 0 => target
+  | fuel' + 1 =>
+    let target' := prs.foldl (fun acc pr => rewritePeepholeAt pr ix acc) target
+    rewritePeephole_go_multi fuel' prs (ix + 1) target'
+
+variable {d : Dialect} [DialectSignature d] [DecidableEq (Dialect.Ty d)] [DecidableEq (Dialect.Op d)]
+[TyDenote d.Ty] [DialectDenote d] [Monad d.m] in
+/-- rewrite with the list of peephole optimizations `prs` at the `target` program, running at most
+`fuel` steps starting at location 0. -/
+def rewritePeephole_multi (fuel : ℕ)
```
Comment (alexkeizer) [inline SSA/Core/Framework.lean]:
```suggestion
def multiRewritePeepholeAt (fuel : ℕ)
```

Naming convention for such definition is to use lowerCamelCase. Since you use `rewritePeepholeAt` it's better to reflect that fully in the name. Finally, since `rewritePeepholeAtMulti` could suggest multiple locations, I suggest moving the multi to the front so it's a bit less ambiguous.

File: SSA/Core/Framework.lean [hunk 2]
```diff
@@ -2589,6 +2589,65 @@ theorem denote_rewritePeephole (fuel : ℕ)
...
+  (prs : List (PeepholeRewrite d Γ t)) (target : Com d Γ₂ eff t₂) : (Com d Γ₂ eff t₂) :=
+  rewritePeephole_go_multi fuel prs 0 target
+
```
Comment (alexkeizer) [inline SSA/Core/Framework.lean]: Mind your formatting

File: SSA/Core/Framework.lean [hunk 3]
```diff
@@ -2589,6 +2589,65 @@ theorem denote_rewritePeephole (fuel : ℕ)
...
+  case succ hp =>
+    simp[rewritePeephole_go_multi, denote_rewritePeepholeAt,hp ,
+      denote_foldl_rewritePeepholeAt]
+
+/- The proof that `rewritePeephole_multi` is semantics preserving  -/
+theorem denote_rewritePeephole_multi (fuel : ℕ)
+  (prs : List (PeepholeRewrite d Γ t)) (target : Com d Γ₂ eff t₂) :
+    (rewritePeephole_multi fuel prs target).denote = target.denote :=
+  by
+  simp [rewritePeephole_multi, denote_rewritePeephole_go_multi]
```
Comment (alexkeizer) [inline SSA/Core/Framework.lean]:
```suggestion
theorem denote_rewritePeephole_multi (fuel : ℕ)
  (prs : List (PeepholeRewrite d Γ t)) (target : Com d Γ₂ eff t₂) :
    (rewritePeephole_multi fuel prs target).denote = target.denote := by
  simp [rewritePeephole_multi, denote_rewritePeephole_go_multi]
```

`by` always goes on the same line as the `:=` (check this everywhere)

**Review by alexkeizer — APPROVED** [review]
I've got suggestions for naming, and please check your formatting, but otherwise LGTM

**Review by tobiasgrosser — APPROVED** [review]
LGTM. This had already been approved. Should we merge it?
